US07528129B2
(R)-3-(4-benzyloxy-3-chloro-5-methyl-phenyl)-2-hydroxy-propionic acid was prepared analogously to Example 7d from 15.5 g (48.6 mmol) 3-(4-benzyloxy-3-chloro-5-methyl-phenyl)-2-oxo-propionic acid and 27.6 g (86.1 mmol) (1R)-B-chlorodiisopinocampheylborane. The crude product was combined with 150 mL methanolic HCl (1.25 M) and stirred overnight at RT. The reaction solution was evaporated down i.vac., the residue was combined with 70 mL 15% K2CO3 solution and extracted twice with 50 mL EtOAc. The combined organic extracts were dried, filtered and evaporated down i.vac.

reactant | 3-(4-benzyloxy-3-chloro-5-methyl-phenyl)-2-oxo-propionic acid | 48.6 mmol, 15.5 g | C(C1=CC=CC=C1)OC1=C(C=C(C=C1C)CC(C(=O)O)=O)Cl | C17H15ClO4
solvent | HCl | 1.25 M, 150 mL | Cl | ClH
product | (R)-3-(4-benzyloxy-3-chloro-5-methyl-phenyl)-2-hydroxy-propionic acid | C(C1=CC=CC=C1)OC1=C(C=C(C=C1C)C[C@H](C(=O)O)O)Cl | C17H17ClO4
